US05102890
Working as in Example 1, but starting with 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (9.9 g) in anhydrous dimethylformamide (100 cc), 1-acetyl-4-piperidinecarboxylic acid (5.1 g) and 1,8-diazabicyclo-[5.4.0]-undec-7-ene (4.6 g), and after successive recrystallization in a mixture of acetone and water (2:1 by volume) and then in ethanol, 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 1-acetyl-4-piperidinecarboxylate (7.5 g), m.p. 101° C., is obtained.

reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 9.9 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | 1-acetyl-4-piperidinecarboxylic acid | 5.1 g | C(C)(=O)N1CCC(CC1)C(=O)O | C8H13NO3
reactant | 1,8-diazabicyclo-[5.4.0]-undec-7-ene | 4.6 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 1-acetyl-4-piperidinecarboxylate | 7.5 g | C(C)(=O)N1CCC(CC1)C(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C24H21ClN4O4
